US07531532B2
(3-Fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamic acid benzyl ester
After dissolving [4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]carbamic acid benzyl ester (41 mg) in N,N-dimethylformamide (2 ml) under a nitrogen atmosphere, triethylamine (0.0485 ml) and phenyl chloroformate (0.0545 ml) were added while stirring in an ice water bath. The reaction mixture was brought to room temperature and the mixture was stirred for 30 minutes. Methyl-(1-methylpiperidin-4-yl)amine (0.0675 ml) was added to the reaction mixture and stirred therewith for 20 hours. The reaction mixture was partitioned between ethyl acetate (30 ml) and saturated aqueous ammonium chloride (20 ml). The separated organic layer was washed with saturated aqueous ammonium chloride (20 ml), water (20 ml) and brine (20 ml) and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and then the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=2:3 to 1:5). Fractions containing the target compound were concentrated under reduced pressure to provide the title compound (38.7 mg, 65.7%) as a colorless oil. ESI-MS (neg.) (m/z): 506[M−H]−.

reactant | [4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]carbamic acid benzyl ester | 41 mg | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C19H16FN3O3
reactant | triethylamine | 0.0485 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0545 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Methyl-(1-methylpiperidin-4-yl)amine | 0.0675 ml | CNC1CCN(CC1)C | C7H16N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (3-Fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamic acid benzyl ester | 38.7 mg, 65.7% | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)F)=O | C27H30FN5O4
